US07230022B2
Part B: Preparation of N-benzylhexa-3,5-dien-1-amine
A solution of hexa-3,5-dien-1-yl 4-methylbenzenesulfonate (1.90 g, 7.53 mmol) and triethylamine (1.39 mL, 10.0 mmol) in acetonitrile (70 mL) was treated with benzylamine (2.45 mL, 22.5 mmol), and the mixture was stirred at room temperature for 16 hours. The solution was then heated to reflux for 3 hours, cooled, and treated with 1.0 N aqueous sodium hydroxide. The mixture was extracted three times with ethyl acetate. (A portion of the extracts were lost due to spillage). The combined organic phases were dried over magnesium sulfate and concentrated to provide a pale yellow oil. The yellow oil was purified by radial thin-layer chromatography, eluting with 25% ethyl acetate/hexane, to provide a colorless oil (628 mg, 45%). 1H NMR (300 MHz, CDCl3) δ7.32 (m, 4H), 7.26 (m, 1H), 6.32 (td, J=17, 10 Hz, 1H), 6.12 (dd, J=15, 10 Hz, 1H), 5.68 (td, J=15, 7 Hz, 1H), 5.12 (d, J=17 Hz, 1H), 5.00 (d, J=10 Hz, 1H), 3.80 (s, 2H), 2.71 (t, J=7 Hz, 2H), 2.32 (q, J=7 Hz, 2H), 1.52 (broad s, 1H). Mass spec (ES+) m/z 188.4 (M+H+, 100%).

reactant | hexa-3,5-dien-1-yl 4-methylbenzenesulfonate | 7.53 mmol, 1.90 g | CC1=CC=C(C=C1)S(=O)(=O)OCCC=CC=C | C13H16O3S
reactant | triethylamine | 10.0 mmol, 1.39 mL | C(C)N(CC)CC | C6H15N
reactant | benzylamine | 22.5 mmol, 2.45 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium hydroxide | 1.0 N | [OH-].[Na+]
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
product | N-benzylhexa-3,5-dien-1-amine | 628 mg, 45% | C(C1=CC=CC=C1)NCCC=CC=C | C13H17N
